US05373040
2,6-bis-(2,4-dimethylphenyl)-4-(2-hydroxy-4-octyloxyphenyl)-s-triazine;
2,6-bis-(2,4-dimethylphenyl)-4-(2,4-dihydroxyphenyl)-s-triazine; 2,4-bis(2,4-dihydroxyphenyl)-6-(4-chlorophenyl)-s-triazine; 2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine; 2,4-bis[2-hydroxy-4-(2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(2,4-dimethylphenyl)-s-triazine; 2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-bromophenyl)-s-triazine; 2,4-bis[2-hydroxy-4-(2-acetoxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine, 2,4-bis(2,4-dihydroxyphenyl)-6-(2,4-dimethylphenyl)-s-triazine.

reactant | 2,6-bis-(2,4-dimethylphenyl)-4-(2,4-dihydroxyphenyl)-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)C)C | C25H23N3O2
reactant | 2,4-bis(2,4-dihydroxyphenyl)-6-(4-chlorophenyl)-s-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=C(C=C1)Cl | C21H14ClN3O4
reactant | 2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine | OC1=C(C=CC(=C1)OCCO)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=CC=C(C=C1)Cl | C25H22ClN3O6
reactant | 2-hydroxy-4-(2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(2,4-dimethylphenyl)-s-triazine | OC1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=C(C=C(C=C1)C)C | C19H19N3O4
reactant | 2,4-bis[2-hydroxy-4-(2-hydroxyethoxy)phenyl]-6-(4-bromophenyl)-s-triazine | OC1=C(C=CC(=C1)OCCO)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCO)O)C1=CC=C(C=C1)Br | C25H22BrN3O6
reactant | 2,4-bis[2-hydroxy-4-(2-acetoxyethoxy)phenyl]-6-(4-chlorophenyl)-s-triazine | OC1=C(C=CC(=C1)OCCOC(C)=O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCOC(C)=O)O)C1=CC=C(C=C1)Cl | C29H26ClN3O8
reactant | 2,4-bis(2,4-dihydroxyphenyl)-6-(2,4-dimethylphenyl)-s-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)C)C | C23H19N3O4
product | 2,6-bis-(2,4-dimethylphenyl)-4-(2-hydroxy-4-octyloxyphenyl)-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCCCCCC)O)C1=C(C=C(C=C1)C)C | C33H39N3O2
